US06288096B1
A mixture of 2 g (4.85 mmole) 4-[2-(4-formylphenoxy)ethyl]phenyl 4-methoxy-1-benzenesulfonate and 0.8 g (6.8 mmole) 2,4-thiazolidinedione, 0.4 g piperidine, 0.3 g acetic acid and 20 ml toluene was refluxed with water separation in a Dean-Stark apparatus for 2.5 hours. The solvent was evaporated in vacuo, the residue was dissolved in dichloromethane and washed with potassium hydrogensulfate solution and with water, dried with magnesium sulfate, filtered and the solvent was concentrated in vacuo. 1.2 g of crystals were filtered off and the mother liquid was purified by chromatography on silica gel using dichloromethane/diethylether (gradient) as eluent to give 0.5 g more, totally 1.7 g (yield 69%) of 5-(4-[2-(4-(4-methoxyphenylsulfonyloxy)phenyl)ethoxy]benzylidene)thiazolidine-2,4-dione.

reactant | 4-[2-(4-formylphenoxy)ethyl]phenyl 4-methoxy-1-benzenesulfonate | 4.85 mmole, 2 g | COC1=CC=C(C=C1)S(=O)(=O)OC1=CC=C(C=C1)CCOC1=CC=C(C=C1)C=O | C22H20O6S
reactant | 2,4-thiazolidinedione | 6.8 mmole, 0.8 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | piperidine | 0.4 g | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.3 g | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4-[2-(4-(4-methoxyphenylsulfonyloxy)phenyl)ethoxy]benzylidene)thiazolidine-2,4-dione | 1.7 g, yield 69% | COC1=CC=C(C=C1)S(=O)(=O)OC1=CC=C(C=C1)CCOC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C25H21NO7S2
